### ISSUE TITLE
`use` and `!` incorrect parsing

### ISSUE THREAD

**Issue by fpvandoorn** [leanprover-community/mathlib4#7781]
```lean
import Mathlib.Data.Nat.Factorial.Basic
open Nat

example (n : ℕ) : ∃ m : ℕ, 0 + n ! = m := by
  use n !
  simp
```
The code above parses incorrectly. Replacing line 5 with `use (n !)` parses correctly.

**Comment by digama0** [comment]
This looks like a lean issue. You can get exactly the same issue using only core lean:
```
example (F : Bool → True) (simp : Bool) : True := by
  exact F !
  simp
```

**Comment by fpvandoorn** [comment]
Related:
https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/precedence.20of.20Nat.2Efactorial
https://github.com/leanprover/lean4/pull/5824
https://github.com/leanprover/lean4/pull/5826
